Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia.
 
Major Surgical or Invasive Procedure:
Deceased.
 
History of Present Illness:
___ y.o woman with history of DM and cryptogenic cirrhosis who 
presents from home with hyperglycemia. The patient recently was 
diagnosed with pneumonia 1 month ago and was treated with 
azithromycin successfully, at which time she also had 
hyperglycemia. She had been doing well at home when over the 
past week her sugars had gone out of control. Her medications 
were switched from glyburide to lantus, however the blood sugars 
remained uncontrolled. She was then referred to the emergency 
room. She was otherwise asymptomatic and been doing well at 
home. No increase in confusion, no cough, no fevers.  
  
In the ED, initial VS: 97.2 88 128/76 18 98% RA. She underwent a 
diagnostic paracentesis which demonstrated no SBP. A CT of the 
abdomen and pelvis was performed which showed colitis of the 
ascending colon, and a RUQ ultrasound that showed an occluded 
portal vein that is old. She received zosyn and flagyl in the ER 
as well as 500cc normal saline. Other notable lab abnormalities 
include a marked transaminitis and a creatinine of 2.3 which is 
up from 1.6 on ___.  
  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.
 
Past Medical History:
Cryptogenic cirrhosis
Diabetes   
Hyperetension
Anemia
 
Social History:
___
Family History:
No history of liver disease. 
 
Physical Exam:
Upon admission:
VS: 97 110/64 94 20 96% on RA  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, JVD 5cm above clavicle.  
HEART: irregularly irregular, no MRG, nl S1-S2.  
LUNGS: Decreased breath sounds at left base, dullness to 
percussion.  
ABDOMEN: Protuberant, bowel sounds present, non tender.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII intact, muscle grossly intact  

At discharge: Deceased.
 
Pertinent Results:
Labs at discharge:
IgG ___
IgM 878
___ positive 1:160 speckled
___, AMA negative 
HAV Ab positive
HepBsAg, sAb, cAb negative
calTIBC 215 Ferritn 190 TRF 165
urine: UreaN:368 Creat:147 Na:11 K:44 Cl:18 Osmolal:361
UA: Color Red  Appear Hazy  SpecGr 1.017  pH 5.0  Urobil Neg  
Bili Neg  Leuk Sm  Bld Lg  Nitr Neg  Prot 30  Glu Neg  Ket Tr  
RBC >182  WBC 9  Bact Few  Yeast Mod  Epi 0 CastHy: 138 Mucous: 
Rare 
Eos: Negative No Eos Seen

Micro:
___ cdiff negative
___ blood cultures pending
___ stool cultures negative
___ urine culture yeast
___ cdiff negative
___ blood culture pending
___ urine culture negative
___ peritoneal fluid culture pending - prelim negative

Imaging:
___ CXR: cardiomegaly, LLL collapse v. consolidation, NGT in 
gastric fundus, hazy opacity in right mid zone, focal opacity at 
right mid base raise question of mid zone atelectasis, and 
infectious infiltrate at right base

___ CXR: Moderate left pleural effusion and associated 
atelectasis. No new consolidation. 

___ PA AND LATERAL CHEST: There is a moderate to large size 
left pleural effusion layering posteriorly. No definite 
consolidation is noted. Mild aortic tortuosity is noted. There 
is also a rounded convexity noted in the region of the 
aorticopulmonary window. Cardiac silhouette size is grossly 
within normal limits. No right effusion is noted. There is no 
pneumothorax. The osseous structures reveal mild wedging at the 
thoracolumbar junction.  IMPRESSION: Moderate to large size left 
pleural effusion. No definite consolidation noted. Given the 
size, malignancy should be excluded. Convexity of the 
aorticopulmonary window region could indicate an underlying mass 
lesion or possible adenopathy. Conceivably, this also could be 
vascular in origin.  
  
___ RUQ ultrasound: Liver is shrunken with a nodular contour 
and diffuse heterogeneous echotexture compatible with cirrhosis. 
Within the right lobe of the liver in the periphery, there is a 
1.2 x 1.1 x 1.1 cm simple cyst. No concerning focal hepatic 
lesions are seen. The main portal vein appears completely 
thrombosed. Several collateral vessels are demonstrated within 
the region of the porta hepatis, likely representing cavernous 
transformation. No intra- or extra-hepatic biliary duct 
dilatation is present, with the common bile duct measuring 4 mm. 
Large volume ascites is present. The spleen is enlarged 
measuring 15.3 cm. The gallbladder was not visualized.  
IMPRESSION:  1. Cirrhosis with large volume ascites and 
splenomegaly.  2. Thrombosis of the portal vein, with likely 
cavernous transformation.  
  
___ CT-scan abdomen: 1. Ascending colon wall thickening 
consistent with colitis.  2. Liver cirrhosis with large amount 
of ascites, splenomegaly and varices. 

 
Brief Hospital Course:
In summary, this is a very nice ___ woman with diabetes, 
cryptogenic cirrhosis, and old portal vein thrombosis who was 
recently treated for a pneumonia as an outpatient who presented 
with hyperglycemia and was found to have an acute hepatitis, 
marked leukocytosis, possible colitis on CT, large volume 
ascites, and a large left sided pleural effusion.

The patient presented with acute on chronic liver failure and a 
creatinine in the mid 2s up from baseline 1.6. She was also 
noted to have an elevated lactate and a leukocytosis with PMN 
predominance at time of adimission. She was treated initially 
with intravenous antibiotics (levofloxacin and metronidazole) 
and intravenous colloid (albumin, dosed 1 gm/kg/day). Despite 
these interventions, the kidney function continued to worsen. 
The transaminases, meanwhile, peaked in the 900s on the second 
hospital day and then down-trended to below 100 within the next 
several days. Although the etiology of acute on chronic liver 
failure was never determined (despite an extensive workup for 
infectious and inflammatory causes), it was felt that 
shock-liver was most likely, possibly from atrial fibrillation 
and rapid ventricular rate and transient hypotension.

Even as the transaminases were downtrending, the kidney function 
worsened and the patient became increasingly oliguric, the 
bilirubin rose and the coagulopathy worsened, with an INR of 
2.5. On the third hospital day, octreotide and midodrine were 
initiated for treatment of hepatorenal syndrome; prior to 
starting treatment for HRS, other causes of acute kidney injury 
such as acute tubular necrosis and post-renal obstruction were 
ruled out with urine sediment microscopy and renal ultrasound, 
respectively. The patient continued to receive intravenous 
albumin on a daily basis to increase her intravascular volume 
and promote renal perfusion.

Antibiotics were continued with levofloxacin and metronidazole. 
As the patient's condition worsened, and there was concern of 
aspiration pneumonia on a chest radiograph, antibiotics were 
broadened to vancomycin, cefepime and metronidazole for 
healthcare-associated pneumonia coverage. Blood and urine 
cultures remained negative.

The patient's condition worsened in spite of aggressive medical 
treatment for infection and type 1 hepatorenal syndrome. 
Multiple family meetings were held, and the decision was made to 
continue medical care with the goal of making the patient 
comfortable while maximizing the chance of her recovery. 
Palliative care consult service also assisted in managing goals 
of care, and meeting with the patient regularly. When the 
patient's nutrition suffered due to worsening encephalopathy and 
uremia, a nasogastric tube was placed and the patient was 
started on tube feeds. Antibiotics were continued.

Ultimately, when it did appear as though patient was suffering 
from progressive, fulminant hepatorenal syndrome, medicines were 
gradually removed. Palliative care assisted in making medication 
recommendations directed towards comfort. The patient passed 
away on the morning ___.
 
Medications on Admission:
-nadolol 40 mg Tab Oral .5 Tablet(s) Once Daily    
-furosemide 40 mg Tab Oral 1 Tablet(s) Twice Daily    
-spironolactone 50 mg Tab Oral 1 Tablet(s) Twice Daily    
-lactulose 30cc Syrup(s) Four times daily    
-oxycodone 5 mg Tab Oral 1 Tablet(s) Twice Daily, as needed    
-ergocalciferol (vitamin D2) 1 Capsule(s) once a week (___)   
 
-albuterol sulfate HFA 90 mcg/Actuation Aerosol Inhaler 
Inhalation 2 HFA Aerosol Inhaler(s) Four times daily   
-Lantus 10U daily  

 
Discharge Medications:
Deceased.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired.
 
Discharge Condition:
Expired.
 
Discharge Instructions:
Expired.
 
Followup Instructions:
___